US04933355
Ethyl 2-[3-(2,6-xylyl)ureido]thiazol-4-ylglyoxylate
Following a procedure similar to that described in Preparation 1, the desired compound was prepared from 5 g of ethyl 2-aminothiazol-4-ylglyoxylate, 5.5 g of 2,6-xylyl isocyanate and 30 ml of dimethylformamide. The resulting product was a pale yellow powder having the following physical properties.

reactant | ethyl 2-aminothiazol-4-ylglyoxylate | 5 g | NC=1SC=C(N1)C(C(=O)OCC)=O | C7H8N2O3S
reactant | 2,6-xylyl isocyanate | 5.5 g | C=1(C(=CC=CC1C)C)N=C=O | C9H9NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | Ethyl 2-[3-(2,6-xylyl)ureido]thiazol-4-ylglyoxylate | C1(=C(C=CC=C1C)C)NC(NC=1SC=C(N1)C(C(=O)OCC)=O)=O | C16H17N3O4S
